US08703768B2
Step 2: 3-Amino-6-(tetrahydrofuran-2-yl)pyrazine-2-carboxylic acid methyl ester
A solution of 3-amino-6-furan-2-yl-pyrazine-2-carboxylic acid methyl ester (1.94 g, 8.9 mmol) was dissolved in THF (80 ml) and hydrogenated over night at rt in the presence of 10% Pd/C (1.0 g). The catalyst was filtered and washed with THF. The filtrate was again hydrogenated in the presence of Pd/C 10% (1.0 g) overnight. The catalyst was filtered and washed with THF. The filtrate was concentrated. The crude product was purified by column chromatography using a CH2Cl2/MeOH gradient for elution, providing the title compound (611 mg, 31%) as yellow solid.

reactant | 3-amino-6-furan-2-yl-pyrazine-2-carboxylic acid methyl ester | 8.9 mmol, 1.94 g | COC(=O)C1=NC(=CN=C1N)C=1OC=CC1 | C10H9N3O3
solvent | THF | 80 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 3-Amino-6-(tetrahydrofuran-2-yl)pyrazine-2-carboxylic acid methyl ester | 611 mg, 31% | COC(=O)C1=NC(=CN=C1N)C1OCCC1 | C10H13N3O3
